US07612075B2
A. 7-Methyl-3H-quinazolin-4-one.
A solution of 2-amino-4-methylbenzoic acid (31.6 g, 206 mmol) in formamide (60 mL) is heated to 130° C. for 1 hour, then at 175° C. for 3 hours. The solution is poured into 500 mL of ice water. The resulting solid is collected by filtration and further dried under reduced pressure. The title compound (26.2 g, 170 mmol) is obtained as a white solid. MS (EI): m/z 159 (M+).

reactant | 2-amino-4-methylbenzoic acid | 206 mmol, 31.6 g | NC1=C(C(=O)O)C=CC(=C1)C | C8H9NO2
reactant | formamide | 60 mL | C(=O)N | CH3NO
product | 7-Methyl-3H-quinazolin-4-one | 170 mmol, 26.2 g | CC1=CC=C2C(NC=NC2=C1)=O | C9H8N2O
